US07439396B2
Preparation of Methyl 4-[2-(3-tert-butyl-4-pyrrolidin-1-ylphenyl)-2-oxoethoxy]benzoate:
In a manner similar to that of Example 1.h, by reaction of 210 mg (0.5 mmol) of methyl 4-[2-(3-tert-butyl-4-pyrrolidin-1-ylphenyl)-2-hydroxyiminoethoxy]benzoate with 100 mg (2.5 mmol) of sodium hydroxide. A white solid is obtained after recrystallization (m.p.=235° C., m=44 mg, yield=22%); (1H NMR (DMSO): 1.35 (s, 9H); 1.86 (s, 4H); 2.89 (s, 4H); 5.29 (s, 2H); 7.04-7.06 (d, J=7.65 Hz, 2H); 7.40-7.42 (d, J=7.4 Hz, 1H); 7.49-7.51 (d, J=7.4 Hz, 1H); 7.65 (s, 1H); 7.86-7.88 (d, J=7.4 Hz, 2H); 11.9 (s, 1H); 12.6 (s, 1H)).

reactant | methyl 4-[2-(3-tert-butyl-4-pyrrolidin-1-ylphenyl)-2-hydroxyiminoethoxy]benzoate | 0.5 mmol, 210 mg | C(C)(C)(C)C=1C=C(C=CC1N1CCCC1)C(COC1=CC=C(C(=O)OC)C=C1)=NO | C24H30N2O4
reactant | sodium hydroxide | 2.5 mmol, 100 mg | [OH-].[Na+]
product | Methyl 4-[2-(3-tert-butyl-4-pyrrolidin-1-ylphenyl)-2-oxoethoxy]benzoate | C(C)(C)(C)C=1C=C(C=CC1N1CCCC1)C(COC1=CC=C(C(=O)OC)C=C1)=O | C24H29NO4
